US08497281B2
(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-imidazo[4,5-b]pyridin-5-yl)-methanone
The title compound is prepared from 1H-imidazo[4,5-b]pyridine-5-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate is used]. Yield: 74% of theory; LC (method 3): tR=2.10 min; Mass spectrum (ESI+): m/z=319 [M+H]+.

reactant | 1H-imidazo[4,5-b]pyridine-5-carboxylic acid | N1C=NC2=NC(=CC=C21)C(=O)O | C7H5N3O2
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-(1H-imidazo[4,5-b]pyridin-5-yl)-methanone | Yield: 74% | N1([C@@H]2[C@H](CCC1)C=1C=CC=CC1C2)C(=O)C2=CC=C1C(=N2)N=CN1 | C19H18N4O
